US06770420B2
131.2 g (1 mol) of p-tolylacetonitrile are placed in a sulfonation flask and charged with 40 g (1 mol) of sodium hydroxide, dissolved in 325 ml of methanol. This solution is cooled in an ice bath to 0-5° C. At this temperature, 1 mol of gaseous methyl nitrite (prepared in situ by addition of 31.5 ml of conc. H2SO4, dissolved in 65 ml of water, to a solution of 83 g of NaNO2 in 50 ml of water and 53 ml of methanol (see Org. Synthesis 1979, 59, 95)) is introduced, with stirring, over 3 hours. The ice bath is then removed and the red solution is stirred overnight at room temperature. The methanol is distilled off on a rotary evaporator and the orange residue is then charged with water and toluene. The aqueous phase is separated, washed twice with toluene and acidified with conc. HCl. The resulting orange emulsion is extracted three times with ethyl acetate, the extracts are washed with water and dried over magnesium sulfate. After filtration, the solvent is distilled off and a yellowish-orange oil is obtained which solidifies upon standing. Recrystallisation from toluene gives 133.6 g (83% of theory) of α-hydroxyimino-4-methylbenzylcyanide as a beige solid having a melting point of 110.5-114.5° C. The 1H-NMR spectrum is consistent with the proposed structure.

reactant | p-tolylacetonitrile | 1 mol, 131.2 g | C1(=CC=C(C=C1)CC#N)C | C9H9N
reactant | sodium hydroxide | 1 mol, 40 g | [OH-].[Na+]
reactant | methyl nitrite | 1 mol | N(=O)OC | CH3NO2
reactant | H2SO4 | 31.5 ml | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 83 g | N(=O)[O-].[Na+]
solvent | methanol | 325 ml | CO | CH4O
solvent | water | 65 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | methanol | 53 ml | CO | CH4O
product | α-hydroxyimino-4-methylbenzylcyanide | 133.6 g, 83% | ON=C(C1=CC=C(C=C1)C)C#N | C9H8N2O
